US06294527B1
2-Chloro-6-methylthio-4-oxo-4H-thieno[2,3-b]thiopyran (6.64 g, 0.027 mol), diethylamine hydrochloride (19.65 g, 0.24 mol) and paraformaldehyde (17.16 g) were added to an aqueous solution of 80% acetic acid and refluxed under heating for 30 hours. The solvent was removed under reduced pressure. The residue was added with ice water and stirred for a while, and supernatant was removed. The remaining viscous matter was dissolved in dimethylformamide (150 ml), filtered for removal of the insoluble matter. Then, the filtrate was added with water (40 ml), methanol (100 ml) and potassium carbonate (37 g, 0.7 mol) and stirred for 35 minutes. Then, ice water (700 ml) was added and the resulting precipitates were collected by filtration. The precipitates were recrystallized from ethanol to obtain 3.5 g (yield: 46.5%) of 2-chloro-5-hydroxymethyl-6-methylthio-4-oxo-4H-thieno[2,3-b]thiopyran.

reactant | 2-Chloro-6-methylthio-4-oxo-4H-thieno[2,3-b]thiopyran | 0.027 mol, 6.64 g | ClC1=CC2=C(SC(=CC2=O)SC)S1 | C8H5ClOS3
reactant | diethylamine hydrochloride | 0.24 mol, 19.65 g | Cl.C(C)NCC
reactant | paraformaldehyde | 17.16 g | C=O | CH2O
reactant | potassium carbonate | 0.7 mol, 37 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 40 ml | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-chloro-5-hydroxymethyl-6-methylthio-4-oxo-4H-thieno[2,3-b]thiopyran | 3.5 g, yield: 46.5% | ClC1=CC2=C(SC(=C(C2=O)CO)SC)S1 | C9H7ClO2S3
